US07601714B2
N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-(quinolin-5-ylmethyl)pyrimidine-2,4-diamine
[4-({5-Nitro-2-[(quinolin-5-ylmethyl)-amino]-pyrimidin-4-ylamino}-methyl)-cyclohexyl]-carbamic acid tert-butyl ester (197 mg, 0.39 mmol) was dissolved in CH2Cl2 (10 mL) and TFA (2 mL) was added. The reaction mixture was stirred at room temperature for 1 h. The reaction mixture was treated with 3M Na2CO3 and the organic phase was separated. The organic phase was dried over Na2SO4 and concentrated. Silica gel purification using a mixture of 10:1:0.3 CH2Cl2:MeOH:Et3N yielded 120 mg of the title compound as a light yellow solid (79%), m/z 406.4 [M−1]+.

reactant | [4-({5-Nitro-2-[(quinolin-5-ylmethyl)-amino]-pyrimidin-4-ylamino}-methyl)-cyclohexyl]-carbamic acid tert-butyl ester | 0.39 mmol, 197 mg | C(C)(C)(C)OC(NC1CCC(CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C2C=CC=NC2=CC=C1)=O | C26H33N7O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Na2CO3 | 3M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N4-[(trans-4-aminocyclohexyl)methyl]-5-nitro-N2-(quinolin-5-ylmethyl)pyrimidine-2,4-diamine | 120 mg, 79% | N[C@@H]1CC[C@H](CC1)CNC1=NC(=NC=C1[N+](=O)[O-])NCC1=C2C=CC=NC2=CC=C1 | C21H25N7O2
